* C:\Users\gokul\Documents\LTspiceXVII\SEM 2 LT SPICE DLD LAB\205.asc
A1 0 N002 0 N004 0 0 N003 0 AND
A2 0 N003 N003 0 0 N005 0 0 AND
A3 N001 N001 0 0 0 N002 0 0 AND
A4 0 N006 N006 0 0 N004 0 0 AND
V1 N001 0 PULSE(0 5 0 1ns 1ns 2s 4s 1 )
V2 N006 0 PULSE(0 5 0 1ns 1ns 1s 2s 2 )
R1 N005 0 1K
* NAND AS NOR
.tran 4s
.backanno
.end
