* C:\Users\gokul\Documents\LTspiceXVII\SEM 2 LT SPICE DLD LAB\FULL_SUBTRACTOR_GOKUL.asc
A1 0 N002 0 N004 0 0 N003 0 XOR
A2 0 N003 0 N006 0 0 N005 0 XOR
A3 0 N003 0 N006 0 0 N007 0 AND
A4 0 N002 0 N004 0 0 N009 0 AND
A5 0 N007 0 N009 0 0 N008 0 OR
V1 N001 N010 PULSE(0 5 0 1ns 1ns 4s 8s 1)
V2 N004 N010 PULSE(0 5 0 1ns 1ns 2s 4s 2 )
V3 N006 N010 PULSE(0 5 0 1ns 1ns 1s 2s 4)
R1 N005 N010 1000
R2 N008 N010 1000
A6 N001 0 0 0 0 N002 0 0 BUF
.tran 8s
* FULL SUBTRACTOR
.backanno
.end
